Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amitriptyline
 
Attending: ___
 
Chief Complaint:
CC: abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ female w/PMHx ___ presenting with
months of frequent bloody bowel movements (___), crampy
abdominal pain, anorexia for 2.5mths.  Denies fevers and chills. 

Has been on prednisone 40mg daily for ~3 weeks, ___ to that 
was
on budesonide, ___ that was on Humira.  Her ___ GI did a
flexible sigmoidoscopy on ___, and decided the patient should 
be
admitted for IV steroids, bowel rest and IVF.  Per ___ GI's
referral to the ___ ED "Due to start vedo next week, having
failed remicade and humira and po steroids now."  Patient took
her home prednisone 40mg, MCP, and mesalamine this AM.

In the ED: VS unremark.  Found to have a benign abd exam. 
ESR/CRP collected.  Given 1L NS.
 

Primary Care Provider: ___, MD
___ -- Dr. ___ -- Dr. ___ in ___

 
Past Medical History:
PMHx:
___ disease -- dx ___ ago, c/b recto-labial fistula -- L
colon sig chronic, moderately active below 25 cm ___ humira
level ___, no antibody
Nephrolithiasis
FATHER WITH HT DISEASE                                          
S/P SPLENIC ARTERY INFARCT -- functional aslenism
OSTEOPOROSIS -- lumbar spine on bone density ___
THROMBOCYTOSIS
NORMAL TPMT -- tested ___ ALT a bit elevated ___
POSSIBILITY OF TNF -- neg for   ___ + for rubeola, rubella,
varicella antibody
CHOLELITHIASIS -- US ___
H/O ENDOMETRIOSIS

PSHx: 
Surgery for recto-labial fistula
Laparoscopy for endometriosis
Urological procedure for nephrolithiasis

 
Social History:
___
Family History:
FHx:
Father had ___
No other significant diseases run in the family

 
Physical Exam:
Discharge Physical Exam:
VS: T 97.9, BP 121/66, HR 53, RR 16, Sat 99% on RA
Weights:
___ 133 lbs
___ 149 lbs
___ 154 lbs

Gen: middle aged woman seated in bed, alert, cooperative, NAD
HEENT: anicteric, PERRL, MMM, no oral lesions
Neck: supple
Chest: equal chest rise, CTAB posteriorly and anteriorly
Cardiovasc: RRR, no m/r/g
Abd: active b.s., soft, no objective TTP, non-distended
Extr: WWP, no edema
Skin: no rashes noted
Neuro: no obv focal neurological deficits
Psych: normal affect

 
Pertinent Results:
CRP 5.9 -> 4.2 -> 3.1 -> 1.9 -> 1.1

___ Flex sig -- Impression: Granularity, erythema, friability
and ulceration in the rectum, sigmoid colon and descending colon
to 45 cm compatible with inflammatory bowel disease (biopsy)
Above 45 cm the mucosa appeared to be normal and formed stool 
was
in the lumen (biopsy)
Otherwise normal sigmoidoscopy to splenic flexure 
Recommendations: ___ with Dr. ___ as needed
___ up with Dr. ___ today
___ biopsy results 

C diff negative

___ 06:29AM BLOOD WBC-8.2 RBC-4.04 Hgb-13.4 Hct-40.0 
MCV-99* MCH-33.2* MCHC-33.5 RDW-20.3* RDWSD-74.0* Plt ___
___ 06:29AM BLOOD Glucose-78 UreaN-18 Creat-0.7 Na-140 
K-4.4 Cl-103 HCO3-27 AnGap-___ woman w/PMHx ___ disease ___ fistula, now admitted 
with a flare x 2.5mths.  She is being admitted to r/o infection 
and to start IV steroids.  

Suspected ___ flare She was seen by GI, started on IV 
solumedrol.  Stopl studies were negative.  treated with IV 
steroids for 5 days and frequency of bowel movements and amount 
of blood in the stool decreased.  advanced your diet to a low 
fiber, low residue diet and started oral steroids on ___ and 
you tolerated this well.  colorectal surger consult. though sx 
are improving, it is possible that may need surgery in the 
future to avoid worsening and more frequent flares of the 
Crohn’s.  f/u Dr. ___ up. plan is to continue 40mg 
prednisone qD until f/u appointment though may talk to Dr. 
___ on phone and decrease in interim.

At ___ discussion of next steps in terms of medication for 
IBD as well as PCP ___. Continue ___ and mesalamine also 
in interim.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 40 mg PO DAILY 
2. Mesalamine ___ 800 mg PO BID 
3. Mercaptopurine 50 mg PO DAILY 
4. LORazepam 1 mg PO DAILY 
5. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral DAILY 
6. Aspirin 81 mg PO DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
 

1. LORazepam 1 mg PO DAILY 
2. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. PredniSONE 40 mg PO DAILY 
RX *prednisone 10 mg 4 tablet(s) by mouth once a day Disp #*120 
Tablet Refills:*1
6. Vitamin D 1000 UNIT PO DAILY 
can buy over the counter 
7. Mercaptopurine 50 mg PO DAILY 
8. Mesalamine ___ 800 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohns disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,  you were admitted with a flare of your Crohn’s 
disease despite oral steroids for weeks before admission.  You 
were treated with IV steroids for 5 days and your frequency of 
bowel movements and amount of blood in the stool decreased.  
With a clear liquid diet, your post-meal cramping also improved. 
 We advanced your diet to a low fiber, low residue diet and 
started oral steroids on ___ and you tolerated this well.  You 
met with the colorectal surgery team while you were 
hospitalized; although your symptoms are improving, it is 
possible that you may need surgery in the future to avoid 
worsening and more frequent flares of the Crohn’s.  You can 
continue to discuss your surgical options with Dr. ___.
You should do the following on discharge:
-Continue 40 mg of prednisone without a taper until you see Dr. 
___.
-Schedule an appointment with Dr. ___ in the next 2 weeks
-Take vitamin D and calcium supplements at home 

 
Followup Instructions:
___